US06645953B2
Silyl deprotection of 3β-hydroxy-4,4-dimethyl-(25R)-26-(tert-butyldimethylsilyloxy)cholest-5-ene (60 mg, 0.11 mmol) with tetrabutyl ammonium fluoride and recrystallisation from methanol to give 4,4-dimethyl-(25R)-cholest-5-ene-3β,26-diol (30 mg).

reactant | 3β-hydroxy-4,4-dimethyl-(25R)-26-(tert-butyldimethylsilyloxy)cholest-5-ene | 0.11 mmol, 60 mg | O[C@@H]1C(C2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC[C@H](CO[Si](C)(C)C(C)(C)C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C35H64O2Si
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methanol | CO | CH4O
product | 4,4-dimethyl-(25R)-cholest-5-ene-3β,26-diol | 30 mg | CC1(C2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC[C@H](CO)C)C)[C@]4(CC[C@@H]3[C@]2(CC[C@@H]1O)C)C)C | C29H50O2
